US09402833B2
Int-67: Ethyl 5-((2R,4S)-2-(2,5-difluorophenyl)-4-fluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate
The title compound (Int-67) was prepared by the method similar to that for Int-84 using (2R,4S)-2-(2,5-difluorophenyl)-4-fluoropyrrolidine hydrochloride (Int-47) and Ethyl 5-bromopyrazolo[1,5-a]pyridine-3-carboxylate to afford as yellow solid. LCMS (ESI): m/z 390.8 (M+H).

reactant | (2R,4S)-2-(2,5-difluorophenyl)-4-fluoropyrrolidine hydrochloride | Cl.FC1=C(C=C(C=C1)F)[C@@H]1NC[C@H](C1)F
reactant | Ethyl 5-bromopyrazolo[1,5-a]pyridine-3-carboxylate | BrC1=CC=2N(C=C1)N=CC2C(=O)OCC | C10H9BrN2O2
product | Ethyl 5-((2R,4S)-2-(2,5-difluorophenyl)-4-fluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate | FC1=C(C=C(C=C1)F)[C@@H]1N(C[C@H](C1)F)C1=CC=2N(C=C1)N=CC2C(=O)OCC | C20H18F3N3O2
